US06573273B1
Concentrated ammonium hydroxide (35 mL) was added with stirring to a solution of N-[3-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea (2.25 g, 5.39 mmol) in dichloromethane (100 mL). Tosyl chloride (1.13 g, 5.93 mmol) was added in small portions over a period of 30 minutes. After I hour the layers were separated. The aqueous layer was extracted with dichloromethane (2×25 mL). The organics were combined and extracted with water (3×50 mL). The aqueous layers were combined and filtered to provide 1.64 g of an off white solid. This material was recrystallized sequentially from 1,2-dichloroethane, isopropyl alcohol and methanol to provide 960 mg of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea as light tan needles, m.p. 191-192° C. Analysis: Calculated for C24H28N6O: %C, 69.21; %H, 6.78; %N, 20.18; Found: %C, 68.94; %H, 6.77; %N, 19.90.

reactant | ammonium hydroxide | 35 mL | [OH-].[NH4+]
reactant | N-[3-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea | 5.39 mmol, 2.25 g | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCNC(=O)NC1=CC=CC=C1 | C24H27N5O2
reactant | Tosyl chloride | 5.93 mmol, 1.13 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea | 960 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)NC2=CC=CC=C2)CCCC | C24H28N6O
